US04616023
In a similar manner, a solution of 0.20 gram (52 millimoles) of sodium borohydride in 5 milliliters of water was added dropwise with stirring to a boiling refluxing solution of 0.50 gram (21 millimoles) of 10,11-difluoro-5H-dibenzo[a,d]cyclohepten-5-one in 50 milliliters of methanol; the stirring and refluxing were continued for one hour, and the mixture thereafter allowed to cool. Most of methanol then was vaporized from the mixture, water added and stirred to obtain white crystalline 10,11-difluoro-5H-dibenzo[a,d]cyclohepten-5-ol intermediate. The latter was washed with water and dried under reduced pressure at about 75° C.

reactant | sodium borohydride | 52 millimoles, 0.20 gram | [BH4-].[Na+]
reactant | 10,11-difluoro-5H-dibenzo[a,d]cyclohepten-5-one | 21 millimoles, 0.50 gram | FC1=C(C2=C(C(C3=C1C=CC=C3)=O)C=CC=C2)F | C15H8F2O
solvent | water | 5 milliliters | O | H2O
solvent | methanol | 50 milliliters | CO | CH4O
product | 10,11-difluoro-5H-dibenzo[a,d]cyclohepten-5-ol | FC1=C(C2=C(C(C3=C1C=CC=C3)O)C=CC=C2)F | C15H10F2O
